US07129225B2
4-benzyloxy-3-hydroxymethylaniline
A mixture of an amine (see Table 1 below for amines) (0.1 mmol), an acid (5-fluoroindole-2-carboxylic acid or 5-fluoro-3-phenylindole-2-carboxylic acid) (0.1 mmol as 0.1 mL of 1M solution in THF), and DIEA (0.05 mL, 0.3 mmol) in 0.4 mL of CH2Cl2-THF (3:1) was cooled to 0° C. PyBrOP (0.1 mmol) was added. The reaction mixture was shaken using an orbital shaker at 0° C. for 30 minutes then at room temperature for 48 hours (0.1 mL THF and 0.2 mL CH2Cl2 were added after 24 hours). EtOAc was added to the mixture and the organic solution was washed with 1M HCl (2×1 mL), brine (1 mL) NaHCO3 (2×1 mL), and brine (1 mL). The organic layer was passed through a silica gel cartridge containing a top layer of anhydrous MgSO4 and moistened with hexane. The product amide was eluted with hexane (1×1 mL), hexane-EtOAc 2:1 (3×1 mL), hexane-EtOAc 1:1 (2×2 mL), and hexane-EtOAc 1:2 (1×2 mL). The fraction(s) containing pure product was identified by TLC (EtOAc-hexane 1:1 and EtOAc-hexane 1:2 in the case of 5-fluoro-3-phenylindole-2-carboxylic acid amide derivatives). The compounds were characterized by 1H NMR.

reactant | 5-fluoroindole-2-carboxylic acid | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | 5-fluoro-3-phenylindole-2-carboxylic acid | FC=1C=C2C(=C(NC2=CC1)C(=O)O)C1=CC=CC=C1 | C15H10FNO2
reactant | DIEA | 0.3 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBrOP | 0.1 mmol | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 0.1 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 THF | 0.4 mL | C(Cl)Cl.C1CCOC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-3-hydroxymethylaniline | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)CO | C14H15NO2
